US07626042B2
(1) 5-Bromo-2-hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide
Using 5-bromosalicylic acid and 2,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 1(1) gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2,5-bis(trifluoromethyl)aniline | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
product | 5-Bromo-2-hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide | Yield: 24.0% | BrC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C15H8BrF6NO2
